US09145392B2
6-{4-[1-(2-Dimethylamino-ethyl)-4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-5-pyridin-4-yl-pyrimidin-4-ylamine (“69”)
The title compound was prepared in an analogous manner as 6-{4-[1-(2-Dimethylamino-ethyl)-4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-5-(4-fluoro-phenyl)-pyrimidin-4-ylamine using 4-pyridinylboronic acid pinacol ester instead of 4-fluorophenylboronic acid. LC-MS: (M+1=555, obsd.=555).

reactant | 6-{4-[1-(2-Dimethylamino-ethyl)-4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-5-(4-fluoro-phenyl)-pyrimidin-4-ylamine | CN(CCN1C(=NC(=C1)C1=CC(=C(C=C1)F)C(F)(F)F)C1CCN(CC1)C1=C(C(=NC=N1)N)C1=CC=C(C=C1)F)C | C29H30F5N7
reactant | 4-pyridinylboronic acid pinacol ester | N1=CC=C(C=C1)B1OC(C)(C)C(C)(C)O1 | C11H16BNO2
product | 6-{4-[1-(2-Dimethylamino-ethyl)-4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-5-pyridin-4-yl-pyrimidin-4-ylamine | CN(CCN1C(=NC(=C1)C1=CC(=C(C=C1)F)C(F)(F)F)C1CCN(CC1)C1=C(C(=NC=N1)N)C1=CC=NC=C1)C | C28H30F4N8
